US09376396B2
1.3 trans-N-[4-(2-{4-[2-tert-Butyl-6-(2-methoxy-ethyl)-pyrimidin-4-yl]-piperazin-1-yl}-ethyl)-cyclohexyl]-acetamide
A mixture of acetyl chloride (181 mg, 2.308 mmol), trans-4-(2-{4-[2-tert-Butyl-6-(2-methoxy-ethyl)-pyrimidin-4-yl]-piperazin-1-yl}-ethyl)-cyclohexylamine (690 mg, 1.539 mmol) and triethylamine (778 mg, 7.69 mmol) in DCM (15 ml) was stirred at room temperature for about 3 h. The solution was concentrated to dryness. The residue was transferred neat onto a 50×250 mm silica gel column and eluted with 5% MeOH/CH2Cl2. Fractions were collected and the solvent removed under reduced pressure to provide the title compound (468 mg, 1.040 mmol, 67.6% yield) as a white powder.

reactant | acetyl chloride | 2.308 mmol, 181 mg | C(C)(=O)Cl | C2H3ClO
reactant | trans-4-(2-{4-[2-tert-Butyl-6-(2-methoxy-ethyl)-pyrimidin-4-yl]-piperazin-1-yl}-ethyl)-cyclohexylamine | 1.539 mmol, 690 mg | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CC[C@@H]1CC[C@H](CC1)N)CCOC | C23H41N5O
reactant | triethylamine | 7.69 mmol, 778 mg | C(C)N(CC)CC | C6H15N
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | trans-N-[4-(2-{4-[2-tert-Butyl-6-(2-methoxy-ethyl)-pyrimidin-4-yl]-piperazin-1-yl}-ethyl)-cyclohexyl]-acetamide | 1.040 mmol, 468 mg, 67.6% yield | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CC[C@@H]1CC[C@H](CC1)NC(C)=O)CCOC | C25H43N5O2
